US05681830
This compound was prepared from 3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-(tert-butyldimethylsilyloxy)benzyl)benzoyl chloride and N-benzyl-N-methylamine by the Benzamide Formation Method described in Example 9. NMR (300 MHz, DMSO-d6, 121° C.): δ 0.93 (d, J=6.2 Hz, 3H); 1.06 (d, J=6.2 Hz, 3H); 1.96 (dd, J1 =6.7 Hz, J2 =11.0 Hz, 1H); 2.12 (dd, J1 =7.0 Hz, J2 =11.0 Hz, 1H); 2.58 (dd, J1 =2.9 Hz, J2 =11.4 Hz, 1H); 2.67-2.84 (m, 3H); 2.86 (s, 3H); 2.89 (dd, J1 =6.6 Hz, J2 =13.5 Hz, 1H); 3.18 (dd, J1 4.0 Hz, J2 =14.1 Hz, 1H); 4.58 (s, 2H); 4.98 (s, 1H); 5.08 (d, J=10.2 Hz, 1H); 5.16 (d, J=17.3 Hz, 1H); 5.74-5.89 (m, 1H); 6.62-6.74 (m, 3H); 7.10 (t, J=7.8 Hz, 1H); 7.21-7.50 (m, 9H); 8.76 (s, 1H). Mass spectrum (CI--CH4) m/e: 484 (M+1,88%), 330 (33%), 153 (100%). [α]D20 =+14.3° (ethanol, c=1.25). The free amine was dissolved in ethanol and titrated with ethanolic hydrogen chloride to pH 3.4 followed by precipitation with diethyl ether from dichloromethane to give (+)-3-((αR)-α-((2S,SR)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-hydroxybenzyl)-N-benzyl-N-methylbenzamide monohydrochloride as a hygroscopic light yellow powder. Calc. for C31H37N3O2HCl 0.75 H2O: C, 69.78; H, 7.46; N, 7.87; Cl, 6.64 Found: C, 69.76; H, 7.48; N, 7.69; Cl, 6.74.

reactant | 3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-(tert-butyldimethylsilyloxy)benzyl)benzoyl chloride | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@@H](C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)C=1C=C(C(=O)Cl)C=CC1)C | C29H41ClN2O2Si
reactant | N-benzyl-N-methylamine | C(C1=CC=CC=C1)NC | C8H11N
reactant | Benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | CH4 | C | CH4
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | (+)-3-((αR)-α-((2S,SR)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-hydroxybenzyl)-N-benzyl-N-methylbenzamide monohydrochloride | Cl.C(C=C)N1C[C@@H](N(CC1C)[C@@H](C1=CC(=CC=C1)O)C=1C=C(C(=O)N(C)CC2=CC=CC=C2)C=CC1)C | InChI=1S/C31H37N3O2.ClH/c1-5-17-33-20-24(3)34(21-23(33)2)30(27-14-10-16-29(35)19-27)26-13-9-15-28(18-26)31(36)32(4)22-25-11-7-6-8-12-25;/h5-16,18-19,23-24,30,35H,1,17,20-22H2,2-4H3;1H/t23?,24-,30+;/m0./s1
